US06559172B1
Preparation of (4R*,5R*)-4-Toluenesulfonyl-5-[4-(trifluoromethyl)phenyl]-4,5-dihydro-1,3-oxazole
In a manner analogous to Preparation 1, 4-(trifluoromethyl)-benzaldehyde (0.54 mL, 3.95 mmol), tosylmethylisocyanide (0.75 g, 3.84 mmol) and NaCN (0.02 g, 0.40 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 411.2 (M+CH3CN+).

reactant | 4-(trifluoromethyl)-benzaldehyde | 3.95 mmol, 0.54 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | tosylmethylisocyanide | 3.84 mmol, 0.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.40 mmol, 0.02 g | [C-]#N.[Na+]
product | (4R*,5R*)-4-Toluenesulfonyl-5-[4-(trifluoromethyl)phenyl]-4,5-dihydro-1,3-oxazole | C=1(C(=CC=CC1)S(=O)(=O)[C@H]1N=CO[C@@H]1C1=CC=C(C=C1)C(F)(F)F)C | C17H14F3NO3S
